US05498630
A 1.7M solution of t-BuLi in pentane (161 mL, 274 mmol) was added dropwise to a solution of 2-(2-fluorophenyl)-4,4-dimethyl-2-oxazoline [cf. Meyers A. I. and Williams B. E., Tetrahedron Letters, 223-226(1978)] (48.0 g., 249 mmol) in THF (320 mL), maintaining the reaction temperature between -45° and -40° C. with a dry-ice/acetone cooling bath. The resulting reaction mixture was maintained at ≤-40° C. with a dry-ice/acetonitrile bath, and monitored to completion by GLC over 20 min. This mixture was poured onto ice and extracted three times with ether. These extracts were combined, dried (MgSO4), concentrated and distilled under vacuum to afford 56.87 g of 2-(2-tert-butylphenyl)-4,4-dimethyl-2-oxazoline, a 93% yield.

reactant | t-BuLi | [Li]C(C)(C)C
reactant | pentane | 274 mmol, 161 mL | CCCCC | C5H12
reactant | 2-(2-fluorophenyl)-4,4-dimethyl-2-oxazoline | 249 mmol, 48.0 g | FC1=C(C=CC=C1)C=1OCC(N1)(C)C | C11H12FNO
solvent | THF | 320 mL | C1CCOC1 | C4H8O
product | 2-(2-tert-butylphenyl)-4,4-dimethyl-2-oxazoline | 56.87 g, 93% yield | C(C)(C)(C)C1=C(C=CC=C1)C=1OCC(N1)(C)C | C15H21NO
